US04663344
Step D: Preparation of 2-Phenyl-2-(2'-carboxy-3'-hydroxyphenylthio)-acetic acid
α-Bromophenylacetic acid (0.26 g, 1.2 mmol) was added to a solution of 2-hydroxy-6-mercaptobenzoic acid (0.20 g, 1.2 mmol) in 1N aqueous sodium hydroxide (25 ml). The reaction mixture was stirred at reflux temperature for 1 hour under a nitrogen atmosphere. The cooled reaction mixture was acidified with 2N hydrochloric acid. The solid that precipitated out was collected by filtration, washed with water, and dried in vacuo over calcium sulfate; yield 0.20 g (38%). NMR (CDCl3, 60 MHz): δ4.86 (s, SCHCO2H) p.p.m.

reactant | α-Bromophenylacetic acid | 1.2 mmol, 0.26 g | BrC(C(=O)O)C1=CC=CC=C1 | C8H7BrO2
reactant | 2-hydroxy-6-mercaptobenzoic acid | 1.2 mmol, 0.20 g | OC1=C(C(=O)O)C(=CC=C1)S | C7H6O3S
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | sodium hydroxide | 1N, 25 ml | [OH-].[Na+]
product | 2-Phenyl-2-(2'-carboxy-3'-hydroxyphenylthio)-acetic acid | C1(=CC=CC=C1)C(C(=O)O)SC1=C(C(=CC=C1)O)C(=O)O | C15H12O5S
